US07491724B2
(2S,3S,5S)-N-hydroxy-1-methyl-2-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]-5-(pyridin-4-yloxy)piperidine-3-carboxamide
Part 1. 1-tert-butyl 3-methyl(2S,3S,5R)-5-hydroxy-2-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]piperidine-1,3-dicarboxylate: A mixture of (2S,3S,5R)-5-hydroxy-3-(methoxycarbonyl)piperidine-2-carboxylic acid (1.851 g, 0.009110 mol), 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride (2.14 g, 0.0109 mol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (4.83 g, 0.0109 mol) in N,N-dimethylformamide (15.0 mL, 0.194 mol) was stirred at rt for 5 min, then treated with N,N-diisopropylethylamine (3.81 mL, 0.0219 mol) at rt for 2 h. The reaction mixture was diluted with methylene chloride (10.0 mL, 0.156 mol). The resultant mixture was then treated with N,N-diisopropylethylamine (3.17 mL, 0.0182 mol), followed by di-tert-butyldicarbonate (3.98 g, 0.0182 mol) at rt overnight. The reaction was diluted with water, extracted with EtOAc. The combined orgnica layers were washed with brine, dried, and concentrated to dry in vacuo. The residue was applied on silica gel, eluting with 0 to 80% EtOAc in hexane, to give the titled compound (2.10 g, 51.9%). MS (ESI): (M+H−Boc)+=345.1.

reactant | 1-tert-butyl 3-methyl(2S,3S,5R)-5-hydroxy-2-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]piperidine-1,3-dicarboxylate | O[C@@H]1C[C@@H]([C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCC(=CC1)C1=CC=CC=C1)C(=O)OC | C24H32N2O6
reactant | (2S,3S,5R)-5-hydroxy-3-(methoxycarbonyl)piperidine-2-carboxylic acid | 0.009110 mol, 1.851 g | O[C@@H]1C[C@@H]([C@H](NC1)C(=O)O)C(=O)OC | C8H13NO5
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 0.0109 mol, 2.14 g | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.0109 mol, 4.83 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-dimethylformamide | 0.194 mol, 15.0 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.0219 mol, 3.81 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 0.156 mol, 10.0 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-diisopropylethylamine | 0.0182 mol, 3.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 0.0182 mol, 3.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
product | (2S,3S,5S)-N-hydroxy-1-methyl-2-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]-5-(pyridin-4-yloxy)piperidine-3-carboxamide | 2.10 g, 51.9% | ONC(=O)[C@@H]1[C@H](N(C[C@H](C1)OC1=CC=NC=C1)C)C(=O)N1CCC(=CC1)C1=CC=CC=C1 | C24H28N4O4
